US08138197B2
Production of 6-(1-Methyl-1H-pyrazol-4-yl)-1′-{[5-(tetrazol-5-yl)biphenyl-3-yl]carbonyl}spiro[chroman-2,4′-piperidin]-4-one
6-(1-Methyl-1H-pyrazol-4-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride (93 mg), 1-hydroxybenzotriazole monohydrate (36 mg), 1-(3-dimethyl aminopropyl)-3-ethylcarbodiimide hydrochloride (57 mg), triethylamine (0.73 mL) and water (1 mL) were added in that order to a DMF (3 mL) solution of 5-(tetrazol-5-yl)biphenyl-3-carboxylic acid (50 mg), and stirred at 90° C. for 2 hours and 30 minutes. Water was added to the reaction liquid, and the formed precipitate was taken out through filtration, washed with hexane/ethyl acetate=3/2, and dried to obtain the title compound as a white solid. 1H-NMR (400 MHz, DMSO-d6) δ: 8.36 (1.0H, s), 8.13 (1.0H, s), 8.03 (1.0H, s), 7.85-7.77 (6.0H, m), 7.53 (2.0H, d, J=7.2 Hz), 7.44 (1.0H, t, J=7.2 Hz), 7.10 (1.0H, d, J=8.4 Hz), 4.40-4.22 (1.0H, m), 3.83 (3.0H, s), 3.65-3.20 (3.0H, m), 2.89 (2.0H, s), 2.15-2.05 (1.0H, m), 1.95-1.78 (3.0H, m). MS [M+H]+=546.

reactant | 6-(1-Methyl-1H-pyrazol-4-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride | 93 mg | Cl.CN1N=CC(=C1)C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O
reactant | 1-hydroxybenzotriazole monohydrate | 36 mg | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 0.73 mL | C(C)N(CC)CC | C6H15N
reactant | 5-(tetrazol-5-yl)biphenyl-3-carboxylic acid | 50 mg | N1N=NN=C1C=1C=C(C=C(C1)C1=CC=CC=C1)C(=O)O | C14H10N4O2
solvent | Water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
product | 6-(1-Methyl-1H-pyrazol-4-yl)-1′-{[5-(tetrazol-5-yl)biphenyl-3-yl]carbonyl}spiro[chroman-2,4′-piperidin]-4-one | CN1N=CC(=C1)C=1C=C2C(CC3(CCN(CC3)C(=O)C=3C=C(C=C(C3)C3=NN=NN3)C3=CC=CC=C3)OC2=CC1)=O | C31H27N7O3
